US08048899B2
Chlorine gas is bubbled through a biphasic mixture of 5 g (26 mmol) of 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester in DCM (50 mL) and water (50 mL) at 10° C. for 10 min. After this time, the organic phase is separated, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude sulfinyl chloride is re-dissolved in DCM (50 mL) and N,N-diisopropylethylamine (4.58 mL, 26 mmol) and azetidine (1.5 g, 26 mmol) are introduced. The reaction is stirred at room temperature for 1 h and then concentrated under reduced pressure. The residue is purified by column chromatography (silica, eluent heptanes, ethyl acetate) provides 4.62 g of 2-(azetidine-1-sulfinyl)-2-methyl-propionic acid ethyl ester. Yield: 80%, ES-MS: m/z 220 [M+H].

reactant | Chlorine | ClCl | Cl2
reactant | 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester | 26 mmol, 5 g | C(C)OC(C(C)(C)SC(C)=O)=O | C8H14O3S
reactant | N,N-diisopropylethylamine | 26 mmol, 4.58 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | azetidine | 26 mmol, 1.5 g | N1CCC1 | C3H7N
reactant | water | 50 mL | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(azetidine-1-sulfinyl)-2-methyl-propionic acid ethyl ester | 4.62 g, Yield: 80% | C(C)OC(C(C)(C)S(=O)N1CCC1)=O | C9H17NO3S
